US07939661B2
Step 2: (2-Methyl-pyridin-4-yl)-piperidin-4-yl-amine dihydrochloride
A solution of 4-(2-methyl-pyridin-4-ylamino)-piperidine-1-carboxylic acid tert-butyl ester (1.31 g, 4.50 mmol) in dioxane (20 mL) and 4 M HCl in dioxane (20 mL) was stirred at rt for 2 h. The solvent was removed under reduced pressure and the crude product used in the consecutive step without further purification assuming quantitative deprotection and formation of the dihydrochloride salt. MS (ISP): 192.1 [M+H]+.

reactant | 4-(2-methyl-pyridin-4-ylamino)-piperidine-1-carboxylic acid tert-butyl ester | 4.50 mmol, 1.31 g | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=CC(=NC=C1)C | C16H25N3O2
reactant | HCl | 4 M | Cl | ClH
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | (2-Methyl-pyridin-4-yl)-piperidin-4-yl-amine dihydrochloride | Cl.Cl.CC1=NC=CC(=C1)NC1CCNCC1 | InChI=1S/C11H17N3.2ClH/c1-9-8-11(4-7-13-9)14-10-2-5-12-6-3-10;;/h4,7-8,10,12H,2-3,5-6H2,1H3,(H,13,14);2*1H
